US05358546
4-Carbethoxyphenylzinc iodide (2.16 mmol, in about 10 mL THF) was transferred via a cannula to a THF solution of 5 mole-% Pd(PPh3)4 (0.127 g, 0.11 mmol) and 4-bromobenzonitrile (0.400 g, 2.19 mmol) at room temperature under an argon atmosphere. The solution was then stirred for 3 hours. The reaction product was isolated by a procedure similar to that described in Example 3. Ethyl 4-(4-cyanophenyl)benzoate (Entry 4 in Table VIII, 0,433 g, 1.73 mmol) in 80% yield was obtained as a crystalline solid: mp 114°-115° C.; 1H NMR (360 MHz) δ 7.60-8.21 (m, 8H), 4.42 (q, J =7.1 Hz, 2H), 1.42 (t, J=7.1 Hz, 3H); 13C NMR δ 165.9, 144.2, 143.1, 132.5, 130.4, 130.1, 127.7, 127.0, 118.5, 111.6, 61.0, 14.2; IR (CCl4) γ 2981, 2231, 1722, 1608, 1276, 1109 cm-1. HREI calcd. for C16H13NO2 m/e 251.0947, found 251.0949. Anal. calcd. for C16H13NO2 : C, 76.48; H, 5.21; N, 5.57, Found: C, 76.25; H, 5.17; N, 5.31.

reactant | 4-Carbethoxyphenylzinc iodide | 2.16 mmol, about 10 mL | [I-].C(=O)(OCC)C1=CC=C(C=C1)[Zn+]
reactant | 4-bromobenzonitrile | 2.19 mmol, 0.400 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
catalyst | Pd(PPh3)4 | 0.11 mmol, 0.127 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 4-(4-cyanophenyl)benzoate | 1.73 mmol, 0,433 g, 80% yield | C(#N)C1=CC=C(C=C1)C1=CC=C(C(=O)OCC)C=C1 | C16H13NO2
